* Z:\home\iwolfs\Projects\Electronics\KiCad_Projects\bldc_project\simulations\ferrite_bead_noise_simulation1.asc
C1 N001 0 10n
C2 REF 0 100n
V1 N001 0 5
V2 N002 0 5
R2 REF2 N002 10
C3 REF2 0 10n
R1 REF N001 14
R3 0 REF 14
V3 N008 0 5
L1 REF4 N005 3.2n Ipk=2 Rser=0.064 Rpar=620 Cpar=1.1p
R5 REF3 0 100k
V5 N010 0 5
R7 REF5 N009 1.082k
C4 REF5 N009 1.678p
L2 REF5 N009 1.208µ
R4 N009 N010 0.3
R8 REF5 0 10000k
V4 N005 0 SINE(0 5 50 0 0 0 10000)
R6 REF4 0 100000
R9 N003 REF6 66.41
R10 N004 N003 185.5
R11 N006 N004 29
L3 N003 REF6 1.244e-6
L4 N004 N003 3.355e-7
L5 N006 N004 1.675e-6
R12 N007 N006 6e-2
C5 N004 REF6 5.894e-13
V6 N007 0 SINE(0 10 50 0 0 0 10000)
RLOAD REF6 0 1000k
R13 REF7 N011 620
C6 REF7 N011 1.1p
R14 N012 N011 0.064
L6 REF7 N012 3.2n
C7 REF7 N013 1000n
R15 REF7 N013 1000
V7 N011 N013 5
XU2 N008 REF3 BLM18PG221SN1
;tran 0 1ms 0 1us
;noise V(REF4) V4 dec 100 1 10000000000k
;tran 0 1ms 0 1us
;noise V(REF2) V2 dec 100 1 100k
;noise V(REF3) V3 dec 100 1 10000000000k
;noise V(REF5) V5 dec 100 1 10000000000k
;noise V(REF6) V6 dec 100 1 10000000000k
.noise V(REF7) V7 dec 100 1 10000000000k
.lib Z:\home\iwolfs\Projects\Electronics\KiCad_Projects\bldc_project\simulations\spice_libs\BLM18PG221SN1.mod
.backanno
.end
