* C:\users\igorwolfs\My Documents\Personal\Projects\kicad_projects\bldc\simulations\ferrite_bead_noise_simulation1.asc
C1 N006 0 10n
C2 REF 0 100n
V1 N006 0 5
V2 N007 0 5
R2 REF2 N007 10
C3 REF2 0 10n
R1 REF N006 14
R3 0 REF 14
V3 N008 0 5
L1 REF4 N005 3.2n Ipk=2 Rser=0.064 Rpar=620 Cpar=1.1p
R5 REF3 0 100k
V4 N005 0 SINE(0 5 50 0 0 0 10000)
R6 REF4 0 100000
R9 N001 REF6 66.41
R10 N002 N001 185.5
R11 N003 N002 29
L3 N001 REF6 1.244e-6
L4 N002 N001 3.355e-7
L5 N003 N002 1.675e-6
R12 N004 N003 6e-2
C5 N002 REF6 5.894e-13
V6 N004 0 SINE(0 10 50 0 0 0 10000)
RLOAD REF6 0 1000k
XU2 N008 REF3 BLM18PG221SN1
V5 N009 0 5
C4 REF5 0 10n Rser=0.1 Rpar=0
L2 REF5 N009 0.00001 Rser=0.1 Rpar=0
;tran 0 1ms 0 1us
;noise V(REF4) V4 dec 100 1 10000000000k
;tran 0 1ms 0 1us
;noise V(REF2) V2 dec 100 1 100k
;noise V(REF3) V3 dec 100 1 10000000000k
;noise V(REF6) V6 dec 100 1 10000000000k
* BLM18PG221SN1 Ferrite Bead simulation circuits
;noise V(REF) V1 dec 100 1 100k
;tran 0 1ms 0 1us
.noise V(REF5) V5 dec 100 1k 100000k
.lib C:\users\igorwolfs\My Documents\Personal\Projects\kicad_projects\bldc\simulations\spice_libs\BLM18PG221SN1.mod
.backanno
.end
